US06881736B1
d) Methyl (±)-3-(5-methylthiazol-2-yl)-4-(4-benzyloxyphenyl)butanoate
Ethyl (±)-3-(5-methylthiazol-2-yl)-4-(benzyloxyphenyl)crotonate (0.99 mmole, crude) was dissolved in MeOH (5 mL), and magnesium turnings (120 mg, 4.95 mmole) were added at RT. After 72 hr the mixture was poured into 10% HCl (75 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford the crude title compound. This was used without purification: MS (ES) m/e 382 (M+H)+.

reactant | Ethyl (±)-3-(5-methylthiazol-2-yl)-4-(benzyloxyphenyl)crotonate | 0.99 mmole | CC1=CN=C(S1)\C(=C/C(=O)OCC)\CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C23H23NO3S
reactant | magnesium | 4.95 mmole, 120 mg | [Mg] | Mg
reactant | HCl | 75 mL | Cl | ClH
reactant | MeOH | 5 mL | CO | CH4O
product | Methyl (±)-3-(5-methylthiazol-2-yl)-4-(4-benzyloxyphenyl)butanoate | CC1=CN=C(S1)C(CC(=O)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H23NO3S
